US08563547B2
2-(2-(4-(4-(trifluoromethoxy)phenoxy)piperidin-1-yl)ethoxy)-N—((S)-6,7-dihydro-2-nitro-5H-imidazo[2,1-b][1,3]oxazin-6-yl)acetamide (21)
Similar to the manipulation of example 1, with (S)-2-chloro-N-(2-nitro-6,7-dihydro-5H-imidazo[2,1-b][1,3]oxazin-6-yl)acetamide (130 mg, 0.50 mmol) and 2-(4-(4-(trifluoromethoxy)phenoxy)piperidin-1-yl)ethanol (305 mg, 1.0 mmol) as crude materials, 125 mg title compound was generated and yield was 47%.

reactant | (S)-2-chloro-N-(2-nitro-6,7-dihydro-5H-imidazo[2,1-b][1,3]oxazin-6-yl)acetamide | 0.50 mmol, 130 mg | ClCC(=O)N[C@H]1CN2C(OC1)=NC(=C2)[N+](=O)[O-] | C8H9ClN4O4
reactant | 2-(4-(4-(trifluoromethoxy)phenoxy)piperidin-1-yl)ethanol | 1.0 mmol, 305 mg | FC(OC1=CC=C(OC2CCN(CC2)CCO)C=C1)(F)F | C14H18F3NO3
product | 2-(2-(4-(4-(trifluoromethoxy)phenoxy)piperidin-1-yl)ethoxy)-N—((S)-6,7-dihydro-2-nitro-5H-imidazo[2,1-b][1,3]oxazin-6-yl)acetamide | 125 mg, yield was 47% | FC(OC1=CC=C(OC2CCN(CC2)CCOCC(=O)N[C@H]2CN3C(OC2)=NC(=C3)[N+](=O)[O-])C=C1)(F)F | C22H26F3N5O7
